US07220862B2
4-(2-Amino-benzyl)-piperidine-4-carboxylic acid ethyl ester hydrochloride
To a solution of 4-(2-amino-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (1.29 g, 4.102 mmol) in dichloromethane (15 mL) was added a 4.0M solution of hydrogen chloride in dioxane (5 mL). The resulting solution was stirred at room temperature overnight. The concentration of the solution under vacuum provided the title compound (1.23 g, 100%) as white solid, which was used in the next step without purification. Mass spec.: 263.40 (MH)+.

reactant | 4-(2-amino-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 4.102 mmol, 1.29 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)N | C20H30N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Amino-benzyl)-piperidine-4-carboxylic acid ethyl ester hydrochloride | 1.23 g, 100% | Cl.C(C)OC(=O)C1(CCNCC1)CC1=C(C=CC=C1)N | InChI=1S/C15H22N2O2.ClH/c1-2-19-14(18)15(7-9-17-10-8-15)11-12-5-3-4-6-13(12)16;/h3-6,17H,2,7-11,16H2,1H3;1H
